US04379921
2-Bromo-1-(4-chlorophenyl)-4,4-dimethyl-1-phenylsulfonylpentan-3-one (4.44 g) and triazole (2.76 g) were dissolved in dimethylformamide (30 ml), and the solution was refluxed for 2 hours. After cooling, it was poured into 100 ml of water and extracted with 100 ml of chloroform. The chloroform layer was washed for three times with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was crystallized in n-hexane, and the crystals were collected by filtration and dried to give 2.65 g of 1-(4-chlorophenyl)-4,4-dimethyl-1-phenylsulfonyl-1-penten-3-one. m.p. 135°-136° C.

reactant | 2-Bromo-1-(4-chlorophenyl)-4,4-dimethyl-1-phenylsulfonylpentan-3-one | 4.44 g | BrC(C(S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)C(C(C)(C)C)=O | C19H20BrClO3S
reactant | triazole | 2.76 g | N1N=NC=C1 | C2H3N3
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(4-chlorophenyl)-4,4-dimethyl-1-phenylsulfonyl-1-penten-3-one | 2.65 g | ClC1=CC=C(C=C1)C(=CC(C(C)(C)C)=O)S(=O)(=O)C1=CC=CC=C1 | C19H19ClO3S
